US09193719B2
Ethyl 3-methylbutanimidate hydrochloride (4.0 g, 24.2 mmol) was suspended in DCM (48 mL) and the mixture was cooled to 0° C. Pyridine (10.0 mL, 124 mmol) was added and the mixture was stirred for 15 minutes. Ethyl chloroformate (5.3 mL, 48.3 mmol) was added and the solution was allowed to warm to RT and stirred for 12 h. The mixture was diluted with a mixture of EtOAc and hexanes (1:1, 200 mL) and solids were removed by filtration through a diatomaceous earth. The filtrate was concentrated in vacuo to afford ethyl N-ethoxycarbonyl-3-methyl-butanimidate (4.3 g, 88%) as a colorless viscous oil. 1H NMR (400 MHz, DMSO-d6): δ 4.09 (q, J=7.1 Hz, 2H), 4.05 (q, J=7.1 Hz, 2H), 2.18 (d, J=7.4 Hz, 2H), 1.95-1.94 (m, 1H), 1.20 (t, J=7.1 Hz, 3H), 1.19 (t, J=7.1 Hz, 3H), 0.86 (d, J=6.7 Hz, 6H).

reactant | Ethyl 3-methylbutanimidate hydrochloride | 24.2 mmol, 4.0 g | Cl.CC(CC(OCC)=N)C
reactant | Pyridine | 124 mmol, 10.0 mL | N1=CC=CC=C1 | C5H5N
reactant | Ethyl chloroformate | 48.3 mmol, 5.3 mL | ClC(=O)OCC | C3H5ClO2
solvent | DCM | 48 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl N-ethoxycarbonyl-3-methyl-butanimidate | 4.3 g, 88% | C(C)OC(=O)N=C(CC(C)C)OCC | C10H19NO3
